US04497813
By reacting 2.5 g of 1-(2,3-epoxypropoxy)-4-(2-methoxyethoxy)benzene with 2.9 g of crude 3-(2-benzylaminoethoxy)salicylamide obtained according to Example (25c), analogously to Example (4a), 1-[N-[2-(3-carbamoyl-2-hydroxyphenoxy)ethyl]benzylamino]-3-[4-(2-methoxyethoxy)-phenoxy]propan-2-ol is obtained as an oil which is further processed in this state.

reactant | 1-(2,3-epoxypropoxy)-4-(2-methoxyethoxy)benzene | 2.5 g | O1C(COC2=CC=C(C=C2)OCCOC)C1 | C12H16O4
reactant | 3-(2-benzylaminoethoxy)salicylamide | 2.9 g | C(C1=CC=CC=C1)NCCOC1=C(C(C(=O)N)=CC=C1)O | C16H18N2O3
product | 1-[N-[2-(3-carbamoyl-2-hydroxyphenoxy)ethyl]benzylamino]-3-[4-(2-methoxyethoxy)-phenoxy]propan-2-ol | C(N)(=O)C=1C(=C(OCCN(CC(COC2=CC=C(C=C2)OCCOC)O)CC2=CC=CC=C2)C=CC1)O | C28H34N2O7
